US08119692B2
4-(4-fluoro-3-methylphenyl)-4-oxobutanoic acid (Intermediate A1)
To an oven dried three neck flask was added Mg turnings (355 mg, 14.6 mg-at.) catalytic amount of iodine, and 20 mL THF. To the resulting mixture was added dropwise 4-bromo-1-fluoro-2-methyl-benzene (1.0 g, 0.005 mol) with heating to ˜62° C. After completing the addition of the aryl bromide, the mixture was stirred for an additional 30 min at 62° C. The THF solution of the prepared aryl magnesium bromide was cooled to −70° C. and succinic anhydride (1.0 g, 0.01 mmol) added as a solution in 10 mL THF. The mixture was vigorously stirred with warming to rt over 3 h and then hydrolyzed by the addition of 30 mL of 1M HCl. The resulting mixture was extracted with ethyl acetate (2×20 mL). The combined organic layers were extracted with 5% aqueous K2CO3 (3×10 mL) and the combined aqueous layers acidified with 1M HCl to pH3. A milky colloidal suspension was extracted with ethyl acetate (3×30 mL) and the combined organic layers washed with brine (2×20 mL). The solvent was evaporated under reduced pressure and the crude product used directly in the next step without further purification.

reactant | 4-bromo-1-fluoro-2-methyl-benzene | 0.005 mol, 1.0 g | BrC1=CC(=C(C=C1)F)C | C7H6BrF
reactant | succinic anhydride | 0.01 mmol, 1.0 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | HCl | 1M, 30 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(4-fluoro-3-methylphenyl)-4-oxobutanoic acid | FC1=C(C=C(C=C1)C(CCC(=O)O)=O)C | C11H11FO3
